US07517905B2
The compound, 3-benzyl-3-azabicyclo[3.1.0]hex-6-yl-(4-bromobutyl)-carbamic acid t-butyl ester, 211.5 mg, 0.5 mmole, 1 eq (prepared by reacting boc-protected 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine, which in turn, was prepared following the procedure of T. F. Braish et al., Synlett, 1996, 1100, with 1-bromo-3-chloropropane) was dissolved in xylene (15 ml). To the reaction mixture, 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid (203 mg, 0.75 mmole, 1.5 eq) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.75 mmole, 1.5 eq) were added. The resulting reaction mixture was refluxed for 2 hrs. Xylene was removed under reduced pressure and the residue was purified by column chromatography by using ethyl acetate in hexane solvent system to yield the compound, 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid 4-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-ethoxy carbonylamino]butyl ester.

reactant | 3-benzyl-3-azabicyclo[3.1.0]hex-6-yl-(4-bromobutyl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(N(CCCCBr)C1C2CN(CC12)CC1=CC=CC=C1)=O | C21H31BrN2O2
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid | 0.75 mmole, 203 mg, 1.5 eq | COC1=C(C=C(C=C1)C)C(CC(=O)O)C1=CC=CC=C1 | C17H18O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.75 mmole, 1.5 eq | N12CCCCCC2=NCCC1 | C9H16N2
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid 4-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-ethoxy carbonylamino]butyl ester | C(C1=CC=CC=C1)N1CC2C(C2C1)N(CCCCOC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC)=O)C(=O)OCC | C36H44N2O5
